Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut / 
Wellbutrin / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Lethargy, Abdominal Pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with hx of SBO, s/p gastric bypass, cholecystectomy, PUD/HCV
and prior CVA presenting after 1 week of decreased appetite and
PO intake in the setting of weakness, nausea, and nonbilious
vomiting.

Patient notes that since ___ she has had N/V and weakness.  The
symptoms progressed to epigastric and left sided abdominal pain
on ___ that she describes as constant in nature with ongoing
throbbing and sharpness.  Concerned that this pain is consistent
with prior bowel obstructions.  She take promethazine at home 
for
her nausea with improvement, however this week she has been
unable to eat or drink consistently.  No
dysuria/hematuria/diarrhea.   BM yesterday normal without
blood/melena.  Passing gas.  No CP, cough, HA, neck pain,
stiffness.  Of note patient has lost 20 lbs since ___.  

Of note patient was seen at ED ___ for R. Flank pain of 4
days.  CTU without evidence of stone and exam was not consistent
with infection.  Was sent home without intervention. 

In the ED, initial VS were:
___ 1416
Pain ___, 98.1F, 92, 123/79, 18, 100% RA

Exam notable for:
L. abdomen TTP with normal bowel sounds.

ECG: NSR, normal axis, flat T waves on V3-V6, TWI V1-V2,
unchanged from prior.
 
Labs showed:
WBC 4.3, Hgb 8.9, PLT 185
Na 141, K 3.5, Cl 103, HCO3 28, BUN 16, Cr 1.0
ALT 23, AST 24, AP 96, Tbili 0.8, Alb 2.3, Lip 4
Lactate 0.7
UA: few bacteria, 6 WBC, trace blood, negative nitrites

Imaging showed:
___ CT A/P w/o Contrast
No acute abnormality identified within the abdomen and pelvis,
specifically no findings of small-bowel obstruction.

Patient received:
___ 17:41 PO Ondansetron ODT 4 mg   
___ 20:01 IVF  NS 1000 mL    
___ 20:02 IV HYDROmorphone (Dilaudid) .5 mg   
___ 20:02 IV Ondansetron 4 mg   
___ 02:33 PO LevETIRAcetam 1500 mg   
___ 02:33 PO/NG Ondansetron ODT 4 mg 

Transfer VS were:
___ ___
98.2F, 78, 108/78, 14, 100% on RA

On arrival to the floor, patient reports the above history. She
states that she has ongoing nausea and L. sided throbbing
abdominal pain unlike her chronic pain.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
- h/o HTN and DMII, resolved after gastric bypass per patient  
 - s/p cholecystectomy and gastric bypass (___), with f/u  
 complicated by multiple ex lap, gastrectomy, reversal surgery,  

 failed J-tube c/b colonic perforation  
 - multiple SBO during f/u from above  
 - hernia repair  
 - chronic abdominal pain, peptic ulcer disease  
 - asthma, stroke (left sided), osteoarthritis, GERD, DVT/PE  
 - narcotic abuse, tobacco abuse  
 - depression, anxiety  
 - muscle weakness / myelopathy, chronic low back pain  
 - vulvar folliculitis  
 - arthorplasty - right total knee  
 - hepatitis C - positive ab test, negative HCV viral load in 2x 
 
 tests  
 - nephrolithiasis  
 - thyromegaly - TSH wnl, low free T4  

 
Social History:
___
Family History:
Mother with diabetes and HTN. Brother with CHF 
 
Physical Exam:
___ PHYSICAL EXAM:
=======================
24 HR Data (last updated ___ @ 524)
Temp: 98.1 (Tm 98.1), BP: 128/84, HR: 92, RR: 20, O2 sat:
97%, O2 delivery: Ra  
GENERAL: NAD, appears older than stated age.
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, TTP in LLQ without
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
========================
PHYSICAL EXAM:  
VITALS: 24 HR Data (last updated ___ @ 611)
Temp: 98.1 (Tm 98.4), BP: 126/86 (112-129/74-86), HR: 75
(75-92), RR: 18 (___), O2 sat: 99% (98-100), O2 delivery: RA,
Wt: 156.53 lb/71 kg   
HEENT: Sclera anicteric, MMM, oropharynx clear. No cervical
lymphadenopathy. Non-tender, non-nodular thyroid.  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops.  
ABD: Soft, non-distended, bowel sounds present. Mild ttp.
No rebound tenderness or guarding. 
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema.  
NEURO: CN II - XII intact. Face grossly symmetric. Moving all
limbs with purpose against gravity. Not dysarthric. ___ strength
in right extremities. ___ strength in left extremities. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:15PM BLOOD WBC-4.3 RBC-2.78* Hgb-8.9* Hct-26.9* 
MCV-97 MCH-32.0 MCHC-33.1 RDW-17.2* RDWSD-60.5* Plt ___
___ 07:15PM BLOOD Neuts-50.7 ___ Monos-12.0 
Eos-0.5* Baso-0.5 Im ___ AbsNeut-2.19 AbsLymp-1.56 
AbsMono-0.52 AbsEos-0.02* AbsBaso-0.02
___ 07:15PM BLOOD Glucose-61* UreaN-16 Creat-1.0 Na-141 
K-3.5 Cl-103 HCO3-28 AnGap-10
___ 07:15PM BLOOD Lipase-4
___ 07:15PM BLOOD ALT-23 AST-24 AlkPhos-96 TotBili-0.8
___ 07:15PM BLOOD Albumin-2.3*
___ 07:47PM BLOOD Lactate-0.7

PERTINENT INTERMITTENT LABS:
============================
___ 10:22AM BLOOD ___ PTT-31.3 ___
___ 10:22AM BLOOD Calcium-7.4* Phos-2.9 Mg-1.5*
___ 07:45AM BLOOD Albumin-1.8* Calcium-7.5* Phos-2.3* 
Mg-1.4*
___ 05:28AM BLOOD Albumin-2.0* Calcium-7.4* Phos-3.9 Mg-1.9
___ 09:00AM BLOOD Cortsol-14.8

IMAGING:
========
___ CT ABD & PELVIS W/O CON:
Post gastric bypass.  No bowel obstruction demonstrated.

MICROBIOLOGY:
=============
___ BLOOD CULTURE: NO GROWTH. 
___ URINE CULTURE:
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

DISCHARGE LABS:
===============
___ 05:15AM BLOOD WBC-8.2 RBC-3.15* Hgb-10.1* Hct-30.7* 
MCV-98 MCH-32.1* MCHC-32.9 RDW-18.5* RDWSD-64.1* Plt ___
___ 05:15AM BLOOD ___ PTT-35.1 ___
___ 05:28AM BLOOD Glucose-87 UreaN-16 Creat-0.9 Na-139 
K-5.0 Cl-106 HCO3-22 AnGap-11
___ 05:28AM BLOOD Albumin-2.0* Calcium-7.4* Phos-3.9 Mg-1.9
 
Brief Hospital Course:
SUMMARY:
====================  
___ is a ___ y.o. F with a PMHx notable for gastric 
bypass (c/b SBO), esophagitis/gastritis, PUD/HCV, 
cholecystectomy, nephrolithiasis, and CVA (___) who presented 
to ___ on ___ with a week of nausea, abdominal discomfort, 
and vomiting x2 days. Of note, she had been previously evaluated 
by GI in ___ for the same presenting symptoms.

ACTIVE ISSUES:  
====================  
# Abdominal Pain
# Gastritis
# Esophagitis
The patient presented with weakness and lethargy in the setting 
of nausea and vomiting with poor PO intake. Of note, EGD ___: 
c/w esophagitis, gastritis. She was recently seen by GI in 
___ as a consult while admitted for identical symptoms. 
Recommendations at that time were to treat supportively with PPI 
BID and anti-emetics. Given her history of SBO, a CT A/P was 
performed on ___ which demonstrated no bowel obstruction. Of 
note despite recommendations to be discharged on BID PPI, her 
daughter endorses that she has only been taking omeprazole 20mg 
once daily at home (unclear how discrepancy arose). We treated 
her supportively with increased dose of PPI 40mg BID, 
sucralfate, and anti-emetics. She remained afebrile, without 
diarrhea for the entire hospital stay and decreased frequency of 
nausea.

#Prolonged QTc Interval:
#Chronic Pain requiring methadone:
Patient on home regimen of Methadone 10mg TID. Her QTc on 
arrival to the ED ___ was 412. She received Zofran to treat her 
nausea. Repeat EKG on ___ was 527. A trial of Ativan was used to 
treat her nausea which was effective, but there was concern of 
continued use given her concurrent use of other sedating 
medications and a significant episode of transient confusion. 
After trialing Zofran again for her nausea her QTc returned to 
525. No further anti-emetics with QTc prolong effects were 
given. QTc on day of discharge was 420. We attempted to wean 
methadone while inpatient however patient was unwilling to do so 
therefore she was discharged on prior regimen.

#Hypomagnesemia:
Patient admitted with Mg2+ of 1.4. Her magnesium remained low 
despite multiple attempts at IV repletion. She ranged from 
1.4-1.9 during her admission. This was of significant concern 
given the above issue of her prolonged QTc interval. She was 
discharged on Magnesium Oxide 400 mg PO BID. Mg2+ on discharge 
was 1.9.

#Hypoglycemia 
During the early part of the admission, patient had glucose 
levels from 49 - 74. This is likely due to minimal PO intake in 
the setting of abdominal discomfort and nausea. As her nausea 
improved and she was able tolerate po intake, nutrition was 
consulted and recommended additional supplementation with 
carnation instant breakfast at each meal. TSH and AM cortisol 
unremarkable. Her morning glucose on day of discharge was 87. If 
she is persistently having issues with hypoglycemia in the 
future would consider endocrine referral.

#Altered mental status
The patient had an episode of confusion and short term memory 
loss on morning of ___. She was awake, alert, and interactive. 
However, she was AOx1. Additionally, throughout her admission, 
the patient had intermittent episodes of drowsiness and 
lethargy. We spoke to her daughter who says these episodes have 
occurred almost every day since she suffered her CVA. Given that 
this is a long-standing issue we planned for continued follow-up 
with neurology as an outpatient. This may be the presentation of 
subclinical seizure activity, but there is also concern for 
polypharmacy. She was awake, alert, interactive, and AOx3 on 
discharge. 

#Severe Hypoalbuminemia:
#Malnutrition:
Significant weight loss, nearly 20lbs. Poor PO intake secondary 
to abdominal pain. Albumin as low as 1.8. Seen by nutrition. 
Started on carnation supplementation and increased her zinc 
dose. Maintained on thiamine and folic acid. 

#Gait instability:
___ evaluation reveals: Impairments of Body Functions and 
Structures, Activity Limitations and Participation Restrictions 
- Knowledge deficit RE: fall risk
- Impaired cognition
- Impaired functional mobility 
- Impaired balance
- Impaired strength 
Patient is being discharged to SNF for further rehabilitation. 

CHRONIC ISSUES:
===============
#Hx of CVA despite xarelto
Thought initially to be embolic phenomenon.  Was seen ___ by 
hematology for ongoing anticoagulation with apixaban. 
Recommended follow up with neurology already scheduled.  No 
evidence of acute CVA symptoms at this time.
Rx:
-Continued Atorvastatin
-Continued Apixaban

#CHRONIC PAIN
-Continued Methadone 10 TID
-Continued Gabapentin

#CHRONIC ANEMIA
Admission Hgb of 8.3; discharge Hgb 10.1 near her baseline. 
-Continued home B12 and folate
-Ferritin (drawn in ___ borderline low at 147.

#Epilepsy
-Continued Levetiracetam
-Continued Lacosamide

#Depression/Anxiety
-Continued Doxepin
-Continued Auetiapine
-Continued Duloxetine

TRANSITIONAL ISSUES:
===================
- Code status: Full (presumed)
- Contacts:
1. ___ - Mother, ___ 
2. ___ - daughter, ___ (* used this contact 
during hospitalization)
3. ___ - daughter, ___
4. ___ - sister, ___ 
- Discharge weight: 71 kg

[] Patient with prolonged QTc (525) during admission and prone 
to hypomagnesemia (1.4-1.9), especially while on omeprazole 
twice daily. Continue to monitor EKG and make medication 
adjustments as needed. 
[] Avoid QTc prolonging medications for nausea (eg. Zofran, 
Compazine, Reglan)
[] Started Magnesium Oxide 400 mg PO BID 
[] Increased PPI from 20mg Daily to 40mg twice daily for 
gastritis/esophagitis. Consider decreasing back to 20mg QD as 
her abdominal sx improve to avoid further hypomagnesemia. 
[] Consider slow Methadone taper
[] Consider outpatient EGD, has f/u with GI on ___
[] Patient is malnourished and should continue with 
supplementation (eg. carnation instant breakfast) TID with 
meals. 
[] Has continued to have transient episodes of confusion. Follow 
up with neurology is advised. 
[] Consider polypharmacy as a cause for her confusion, falls. 
[] Consider outpatient iron infusions (did not start PO iron 
given concern for abdominal discomfort and constipation)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 100 mcg PO DAILY 
2. Thiamine 100 mg PO DAILY 
3. Zinc Sulfate 75 mg PO DAILY 
4. Apixaban 5 mg PO BID 
5. Doxepin HCl 100 mg PO HS 
6. DULoxetine 40 mg PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Gabapentin 100 mg PO TID 
9. LACOSamide 200 mg PO BID 
10. LevETIRAcetam 1500 mg PO BID 
11. Methadone 10 mg PO TID 
12. Omeprazole 20 mg PO DAILY 
13. QUEtiapine Fumarate 75 mg PO QHS 
14. Promethazine 6.25 mg PO BID:PRN nausea 
15. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Magnesium Oxide 400 mg PO BID  
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.  Senna 17.2 mg PO BID  
5.  Sucralfate 1 gm PO QID  
6.  Doxepin HCl 50 mg PO HS  
7.  Omeprazole 40 mg PO BID  
8.  Zinc Sulfate 220 mg PO DAILY  
9.  Apixaban 5 mg PO BID  
10.  Atorvastatin 40 mg PO QPM  
11.  Cyanocobalamin 100 mcg PO DAILY  
12.  DULoxetine 40 mg PO DAILY  
13.  FoLIC Acid 1 mg PO DAILY  
14.  Gabapentin 100 mg PO TID  
15.  LACOSamide 200 mg PO BID  
16.  LevETIRAcetam 1500 mg PO BID  
17.  Methadone 10 mg PO TID  
18.  Thiamine 100 mg PO DAILY  
19. HELD- Promethazine 6.25 mg PO BID:PRN nausea  This 
medication was held. Do not restart Promethazine until your 
doctor says it is safe to do so based on your QTc interval
20. HELD- QUEtiapine Fumarate 75 mg PO QHS  This medication was 
held. Do not restart QUEtiapine Fumarate until your doctor says 
it is safe to do so based on your QTc interval

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
- Acute on chronic abdominal pain
- Gastritis/esophagitis
- Nausea

SECONDARY DIAGNOSIS:
- Prolonged QTc Interval
- Hypomagnesemia
- Hypoglycemia
- Malnutrition 
- Altered mental status
- Gait instability
- History of cerebral vascular accident
- Epilepsy
- Depression
- Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent; Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure to care for you at the ___ 
___.  

WHY DID YOU COME TO THE HOSPITAL?
- Abdominal pain and vomiting.
   
WHAT DID YOU RECEIVE WHILE YOU WERE IN THE HOSPITAL?
- We did imaging to make sure there was not a blockage in your 
abdomen causing your symptoms. The imaging came back as normal.
- We increased the dose of your antacid medication to help with 
your stomach pain and burning in your throat. 
- We looked at the electrical activity in your heart using an 
EKG. This showed that you were at high risk to develop an 
abnormal heart rhythm. This is caused by medications such as 
Methadone, Zofran, Compazine and Seroquel. We have stopped the 
Zofran, Compazine and Seroquel; you are continued on your 
methadone. We also prescribed you daily magnesium to help 
decrease your risk of having an arrhythmia. 
- Our nutritionists saw you and recommended starting a 
nutritional supplement called Carnation instant breakfast.
  
WHAT SHOULD YOU DO ONCE YOU LEAVE THE HOSPITAL?
- Please go to your outpatient doctors ___ below). 
It is important to discuss your medications as you may be at 
high risk of developing an abnormal heart rhythm. 
- Please only take your medications as prescribed. Do not skip 
doses or take more than one dose at a time.   
- Please try to eat regularly and stay hydrated with water

 
We wish you the best!  
- Your ___ Care Team  
 
Followup Instructions:
___